US05556860
(a) Synthesis of 3-benzoyl-2-trichloroacetylamino-pyridine
To a solution of 11.0 g (55 mmol) of 2-amino-3-benzoylpyridine and 6.1 g (60 mmol) of triethylamine in 200 mL of tetrahydrofuran was added dropwise 10.0 g (55 mmol) of trichloroacetyl chloride at temperature of 5° to 15° C. After being stirred for 3 hours at ambient temperature, the reaction mixture was poured into water, and then the mixture was extracted with ethyl acetate. The organic layer separated was washed with water and then with brine, dried on anhydrous sodium sulfate and then concentrated in vacuo. The resulting crude crystals were recrystallized from ethanol to give 14.0 g (40 mmol) of the title compound.

reactant | 2-amino-3-benzoylpyridine | 55 mmol, 11.0 g | NC1=NC=CC=C1C(C1=CC=CC=C1)=O | C12H10N2O
reactant | triethylamine | 60 mmol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 55 mmol, 10.0 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-benzoyl-2-trichloroacetylamino-pyridine | 40 mmol, 14.0 g | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)NC(C(Cl)(Cl)Cl)=O | C14H9Cl3N2O2
